US20010044407A1
To a suspension of 53.3 g (815 mmol) of zinc dust in 74 ml of water were added 4 ml of concentrated hydrochloric acid. The supernatant was decanted off after stirring for 30 min, and to the residue were added, with ice cooling, 42 ml of water and then, dropwise, 55 ml of concentrated hydrochloric acid. 28.0 g (136 mmol) of 5,6-dimethoxy-3-methylindan-1-one dissolved in 53 ml of toluene were added and the mixture was refluxed for 3 days (d), in the course of which, after 48 h, a further 55 ml of concentrated hydrochloric acid were added. After cooling, the reaction mixture was poured into 200 ml of water and the product was extracted twice in 300 ml of ether. The combined extracts were washed with 100 ml of water and 25 ml of saturated sodium chloride solution, dried over sodium sulfate and concentrated on a rotary evaporator. After flash chromatography (pentane/ether, 9:1, Rf=0.23) on silica gel, 19.6 g (75%) of 5,6-dimethoxy-1-methylindane were obtained.

reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | 5,6-dimethoxy-3-methylindan-1-one | 136 mmol, 28.0 g | COC=1C=C2C(CC(C2=CC1OC)=O)C | C12H14O3
reactant | hydrochloric acid | 55 ml | Cl | ClH
solvent | water | 74 ml | O | H2O
solvent | toluene | 53 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | 815 mmol, 53.3 g | [Zn] | Zn
solvent | water | 200 ml | O | H2O
product | 5,6-dimethoxy-1-methylindane | 19.6 g, 75% | COC=1C=C2CCC(C2=CC1OC)C | C12H16O2
